US06855722B2
c) 7-(2-{1-[1-(2,3-Dihydro-benzofuran-5-yl)-2-ethoxycarbonyl-vinyl]-1H-indol-5-yloxy}-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
The title compound was synthesized from (2,3-dihydro-benzofuran-5-yl)-propynoic acid ethyl ester and 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure described in Example 16, step (c1), in 52% yield as an E/Z mixture. 1H NMR (CDCl3) δ 7.31 (d, 1H, J=7.6 Hz), 7.18-7.01 (m, 4H), 6.94 (dd, 1H, J=3.5, 7.6 Hz), 6.82-6.71 (m, 3H), 6.56-6.48 (m, 1H), 6.10 (s, 0.6H), 6.00 (s, 0.4H), 4.62 (q, 2H, J=8.8 Hz), 4.39-4.35 (m, 2H), 4.13 (q, 0.8H, J=7.1 Hz), 3.98 (q, 1.2H, J=7.1 Hz), 3.76 (t, 2H, J=5.9 Hz), 3.23-3.14 (m, 4H), 2.73 (t, 2H, J=6.64 Hz), 1.95-1.89 (m, 2H), 1.52 (s, 9H), 1.21 (t, 1.2H, J=7.1 Hz), 1.00 (t, 1.8 Hz, J=7.1 Hz).

reactant | (2,3-dihydro-benzofuran-5-yl)-propynoic acid ethyl ester | C(C)OC(C#CC=1C=CC2=C(CCO2)C1)=O | C13H12O3
reactant | 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | 7-(2-{1-[1-(2,3-Dihydro-benzofuran-5-yl)-2-ethoxycarbonyl-vinyl]-1H-indol-5-yloxy}-ethyl)-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 52% yield | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C=1C=CC2=C(CCO2)C1 | C36H39N3O6
